US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-n-butylpiperazine dihydrochloride
A mixture of 12 g of 3-(-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of 1-n-butylpiperazine dihydrochloride, 21 g of potassium carbonate and a few crystals of potassium iodide in 80 ml of dimethylformamide was stirred at 70° C. for three hrs, cooled, filtered and concentrated to an oil. The oil was stirred with water and extracted with ether. The ether extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was converted to a salt by treatment with ethereal hydrogen chloride. Recrystallization from ethyl acetate/methanol gave 3.2 g (18%) of product, mp 260° C. (dec).

reactant | 3-(-chloropropyl)-6-fluoro-1,2-benzisoxazole | 12 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | 1-n-butylpiperazine dihydrochloride | 10 g | Cl.Cl.C(CCC)N1CCNCC1
reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-n-butylpiperazine dihydrochloride | 3.2 g, 18% | Cl.Cl.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)CCCC)C=C1 | InChI=1S/C18H26FN3O.2ClH/c1-2-3-8-21-10-12-22(13-11-21)9-4-5-17-16-7-6-15(19)14-18(16)23-20-17;;/h6-7,14H,2-5,8-13H2,1H3;2*1H
